US05093370
First, 831 mg of et - 8-phenyl-4-octenoate was dissolved in 17 ml of absolute ethanol, and after adding 83 mg of 5% palladium on carbon, the mixture was stirred under a hydrogen gas flow at a room temperature for 80 minutes. After filtering off the catalyst, the filtrate was evaporated to obtain 795 mg of ethyl 8-phenyloctanoate as a colorless liquid.

reactant | 8-phenyl-4-octenoate | C1(=CC=CC=C1)CCCC=CCCC(=O)[O-]
reactant | ethanol | 17 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 83 mg | [Pd] | Pd
product | ethyl 8-phenyloctanoate | 795 mg | C1(=CC=CC=C1)CCCCCCCC(=O)OCC | C16H24O2
